US05756781
A mixture of 94 g (1.0 mol) of phenol, 5.31 g (0.0500 mol) of 3 mercaptopropionic acid, 10 g of Lewatit BG ion exchange resin and 1.0 g of 2.6-dimethylnaphthalene (internal standard for liquid chromatography analysis) was heated under a static nitrogen atmosphere to 65° C. in a round bottom flask equipped with a condenser, an internal thermometer and a mechanical stirrer. To this mixture was added 11.35 g (0.08336 mol) of 4-hydroxyacetophenone. The mixture was stirred with heating while samples were obtained periodically. Three to four drops of the reaction solution was added to 10 mL of acetonitrile for liquid chromatography analyses. After about 8 hrs., the reaction mixture was separated from the ion exchange resin by filtration and the THPE was isolated by the addition of methylene chloride (about 400 mL). The results monitoring reaction completion versus Comparative Example 1 are found in Table I. The THPE was washed with additional methylene chloride and dried. To determine the level of color bodies, 0.2 grams of THPE was dissolved in 10 mL of methanol and the UV absorption was measured at 422, 500, and 600 nm. The results measured at different wavelengths can be found in Table II.

reactant | phenol | 1.0 mol, 94 g | C1(=CC=CC=C1)O | C6H6O
reactant | 3 mercaptopropionic acid | 0.0500 mol, 5.31 g | SCCC(=O)O | C3H6O2S
reactant | 2.6-dimethylnaphthalene | 1.0 g | CC1=CC2=CC=C(C=C2C=C1)C | C12H12
reactant | 4-hydroxyacetophenone | 0.08336 mol, 11.35 g | CC(=O)C=1C=CC(=CC1)O | C8H8O2
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | THPE | COC(=O)C1CCOCC1 | C7H12O3
